US05250532
Preparation of 2-(5-Trifluoromethyl-2-pyridinyl)-1-(4-chlorophenyl)-2-propen-1-one
Acetic anhydride (19 mL, 21 g, 200 mmol) was added slowly to a stirring slurry of 2-(5-trifluoromethyl-2-pyridinyl)-1-(4-chlorophenyl)ethanone (12.1 g, 40.0 mmol) in bisdimethylaminomethane (22 mL, 16 g, 160 mmol) at 0° C. causing immediate solution. TLC showed complete conversion after 5 min and the mixture was partitioned between ether and water by adding these solvents and separating the layers. The organic layer was extracted with brine, dried over sodium sulfate, filtered, and evaporated under reduced pressure to obtain 13 g (99 percent of theory) of the title compound as a red oil.

reactant | Acetic anhydride | 200 mmol, 19 mL, 21 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(5-trifluoromethyl-2-pyridinyl)-1-(4-chlorophenyl)ethanone | 40.0 mmol, 12.1 g | FC(C=1C=CC(=NC1)CC(=O)C1=CC=C(C=C1)Cl)(F)F | C14H9ClF3NO
reactant | bisdimethylaminomethane | 160 mmol, 22 mL, 16 g | CN(C)CN(C)C | C5H14N2
product | 2-(5-Trifluoromethyl-2-pyridinyl)-1-(4-chlorophenyl)-2-propen-1-one | FC(C=1C=CC(=NC1)C(C(=O)C1=CC=C(C=C1)Cl)=C)(F)F | C15H9ClF3NO
